US08071584B2
(4-Bromo-2-thienyl)(cyclopropyl)methanone
Cyclopropyl(2-thienyl)methanone (Aldrich, 1.5 g, 9.9 mmol) was diluted in chloroform (10 mL). Aluminum chloride (2.96 g, 22.2 mmol, 2.3 eq) was added, followed by the dropwise addition of bromine (0.56 mL, 11 mmol, 1.1 eq) in chloroform (10 mL). The mixture was stirred at rt overnight, then poured onto ice water (100 mL). The whole was extracted with dichloromethane, and the combined organic layers were dried over sodium sulfate, filtered, and concentrated to give brown oil. The crude product was purified by isco combiflash, 120 g column, eluting with 0-15% ethyl acetate in hexanes. Yellow oil was obtained.

reactant | Cyclopropyl(2-thienyl)methanone | 9.9 mmol, 1.5 g | C1(CC1)C(=O)C=1SC=CC1 | C8H8OS
reactant | Aluminum chloride | 22.2 mmol, 2.96 g, 2.3 eq | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromine | 11 mmol, 0.56 mL, 1.1 eq | BrBr | Br2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | (4-Bromo-2-thienyl)(cyclopropyl)methanone | BrC=1C=C(SC1)C(=O)C1CC1 | C8H7BrOS
